US07241773B2
N-[4-(4-chlorophenoxy)phenyl]quinuclidin-3-amine hydrochloride
3-Quinuclidinone hydrochloride (Aldrich, 1.61 g, 10 mmol) was treated with 4-(4-chlorophenyloxy) aniline (Aldrich, 1.10 g, 5.0 mmol) according to the procedure of Example 30A. The free base of the title compound was purified by chromatography (SiO2, CH2Cl2:MeOH:NH3.H2O, 90:10:2, Rf. 0.10) as a solid (1.52 g, yield, 93%). MS (DCl/NH3) m/z 329 (M+H)+, 331 (M+H)+. The free base (200 mg, 0.61 mmol) was treated with 4M HCl 1,4-dioxane (0.5 mL, 2.0 mmol) in ethyl acetate (5 mL). The hydrochloride salt of the title compound was obtained as a solid (195 mg, yield, 80%). 1H NMR (MeOH-d4, 300 MHz) δ 1.90–2.18 (m, 3H), 2.35–2.45 (m, 2H), 3.24 (ddd, J=12.5, 5.4, 2.3 Hz, 1H) 3.30–3.50 (m, 4H), 3.82 (ddd, J=12.2, 9.8, 2.7 Hz, 1H), 3.95–4.10 (m, 1H), 6.91 (dt, J=9.1, 2.3 Hz, 2H), 6.95–7.02 (m, 4H), 7.30(dt, J=9.2, 2.4 Hz, 1H), 7.26–7.32 (m, 2H) ppm. MS (DCl/NH3) m/z 329 (M+H)+, 331 (M+H)+. Anal Calculated for C19H21ClN2O.2.0HCl.0.5H2O: C, 55.56; H, 5.89; N, 6.82. Found: C, 55.78; H, 5.28; N, 6.62.

reactant | 3-Quinuclidinone hydrochloride | 10 mmol, 1.61 g | Cl.N12CC(C(CC1)CC2)=O
reactant | 4-(4-chlorophenyloxy) aniline | 5.0 mmol, 1.10 g | ClC1=CC=C(C=C1)OC1=CC=C(N)C=C1 | C12H10ClNO
reactant | HCl 1,4-dioxane | 2.0 mmol, 4M, 0.5 mL | O1CCOCC1.Cl
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | N-[4-(4-chlorophenoxy)phenyl]quinuclidin-3-amine hydrochloride | Cl.ClC1=CC=C(OC2=CC=C(C=C2)NC2CN3CCC2CC3)C=C1 | InChI=1S/C19H21ClN2O.ClH/c20-15-1-5-17(6-2-15)23-18-7-3-16(4-8-18)21-19-13-22-11-9-14(19)10-12-22;/h1-8,14,19,21H,9-13H2;1H
